US08389720B2
tert-butyl 4-(2-{[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate
1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde (0.590 g, 3.15 mmol), tert-butyl 4-(2-amino-1-phenylethyl)piperidine-1-carboxylate (1.2 g crude, 3.94 mmol), and acetic acid (0.677 ml, 11.83 mmol) were combined in CH2Cl2 (20 ml). Sodium triacetoxyborohydride (2.506 g, 11.83 mmol) was added and the reaction stirred for 16 hours. The mixture was partitioned between CH2Cl2 and satd. bicarb, the aqueous portion extracted 3×CH2Cl2, and the organic portion dried (Na2SO4) then concentrated in vacuo. The product was carried on without further purification.

reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde | 3.15 mmol, 0.590 g | CN1C(C(=CC2=CC=CC=C12)C=O)=O | C11H9NO2
reactant | tert-butyl 4-(2-amino-1-phenylethyl)piperidine-1-carboxylate | 3.94 mmol, 1.2 g | NCC(C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O2
reactant | acetic acid | 11.83 mmol, 0.677 ml | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 11.83 mmol, 2.506 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-{[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]amino}-1-phenylethyl)piperidine-1-carboxylate | CN1C(C(=CC2=CC=CC=C12)CNCC(C1=CC=CC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C29H37N3O3
